US05661160
Synthesis of 1-[2-[3-(3,4-dimethoxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepared by the method of example 3.3 using 2-[3-(3,4-dimethoxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.55 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (175 mg, 0.73 mmol). Chromatography on silica gel (30 g) eluting sequentially with ethyl acetate, 6% methanol in dichloromethane, and 10% methanol in dichloromethane gave the title compound:

reactant | 2-[3-(3,4-dimethoxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.55 mmol | COC=1C=C(C=CC1OC)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.73 mmol, 175 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dimethoxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | COC=1C=C(C=CC1OC)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C36H45N3O7
